US20010007873A1
D. 2-(4-Benzyloxy-2-isopropyl-phenyl)-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine
Under a nitrogen atmosphere was combined 15.58 g (62.04 mmol) of 2-bromo-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine, 16.76 g (62.04 mmol) of 4-benzyloxy-2-isopropyl-benzeneboronic acid, 26.31 g (248.2 mmol) of sodium carbonate and 1.80 g of tetrakis(triphenylphosphine)palladium(0) (1.55 mmol) in 243 mL of ethanol and 27 mL of water. The solution was allowed to reflux for 72 hours at which point the reaction mixture was concentrated in vacuo. The resultant residue was partitioned between ethyl acetate (300 mL) and water (300 mL). The aqueous layer was extracted again with ethyl acetate (200 mL) and the combined organic extracts were washed with brine (1×200 mL), dried over sodium sulfate, filtered and concentrated in vacuo to yield crude product as an amber solid which crystallized upon standing. Recrystallization of this solid from absolute ethanol:hexane afforded 21.35 9 (87%) of the title compound as a tan solid.

reactant | 2-bromo-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine | 62.04 mmol, 15.58 g | BrC1=NC(=CC=C1)N1C(=CC=C1C)C | C11H11BrN2
reactant | 4-benzyloxy-2-isopropyl-benzeneboronic acid | 62.04 mmol, 16.76 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)B(O)O)C(C)C | C16H19BO3
reactant | sodium carbonate | 248.2 mmol, 26.31 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 243 mL | C(C)O | C2H6O
solvent | water | 27 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.55 mmol, 1.80 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-Benzyloxy-2-isopropyl-phenyl)-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=NC(=CC=C1)N1C(=CC=C1C)C)C(C)C | C27H28N2O
